US05296454
The 2-methyl-2-(3-thienyl)propionic acid (34.0 g); obtained in Example 8, was dissolved in chloroform (60 ml) and to this solution was added thionyl chloride (31.0 g), followed by a 30 minute-refluxing under heating. After the reaction, the solvent and remaining thionyl chloride was removed under reduced pressure. The remaining crude product was distilled under reduced pressure to obtain 2-methyl-2-(3-thienyl) propionic acid chloride with bp 86°-88° C./2.Otorr.

reactant | 2-methyl-2-(3-thienyl)propionic acid | 34.0 g | CC(C(=O)O)(C)C1=CSC=C1 | C8H10O2S
reactant | thionyl chloride | 31.0 g | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-methyl-2-(3-thienyl) propionic acid chloride | CC(C(=O)Cl)(C)C1=CSC=C1 | C8H9ClOS
